US07932247B2
Preparation of N-(cyclopropylmethyl)-N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-3-(4-piperidinylmethyl)benzamide
Following the general procedure outlined in Example 66, 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (76.1 mg, 0.106 mmol), NaH (8.29 mg, 0.345 mmol) and (bromomethyl)cyclopropane (0.0155 mL, 0.160 mmol) in DMF (1.0 mL) were reacted to give the desired product (8.4 mg, 13.7%). EI-MS m/z 569(M−H)+.

reactant | 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 0.106 mmol, 76.1 mg | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C=CC1)C(=O)NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)F | C42H55FN4O5
reactant | NaH | 0.345 mmol, 8.29 mg | [H-].[Na+]
reactant | (bromomethyl)cyclopropane | 0.160 mmol, 0.0155 mL | BrCC1CC1 | C4H7Br
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(cyclopropylmethyl)-N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-3-(4-piperidinylmethyl)benzamide | 8.4 mg, 13.7% | C1(CC1)CN(C(C1=CC(=CC=C1)CC1CCNCC1)=O)CC=1C=C(C(=CC1)F)C1=CC(=CC=C1)CN1C[C@@H](NCC1)C | C36H45FN4O
